US06642418B1
Preparation of 3-Cyclopropyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)propane-1,3-dione
The above compound was also prepared in a similar manner, but using acetonitrile without addition of water, from 3-cyclopropyl-2-ethoxycarbonyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)propane-1,3-dione. In this experiment the reaction mixture was heated for 20 hours at reflux, resulting in a clean conversion to the title compound (as shown by nmr), but after this time 60% of the starting ethyl ester still remained.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | 3-cyclopropyl-2-ethoxycarbonyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)propane-1,3-dione | C1(CC1)C(C(C(=O)C1=C(C(=C(S1)C)OC)F)C(=O)OCC)=O | C15H17FO5S
solvent | water | O | H2O
product | 3-Cyclopropyl-1-(4-fluoro-3-methoxy-2-methylthiophenyl)propane-1,3-dione | C1(CC1)C(CC(=O)C1=C(C(=C(S1)C)OC)F)=O | C12H13FO3S
